US07314888B1
In 10 ml of dioxane is added 1.00 g of 2-amino-3,5-dibromo-4-(methoxycarbonyl)benzoic acid, to which are successively added 0.6 ml of triethylamine and 0.9 ml of diphenyl phosphoryl azide. The mixture thus obtained is heated under reflux for 1.5 hours. Ethyl acetate and water are added to the reaction mixture, pH is adjusted to 6 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 0.96 g of methyl 4,6-dibromo-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate is obtained as a light brown-colored solid product.

reactant | 2-amino-3,5-dibromo-4-(methoxycarbonyl)benzoic acid | 1.00 g | NC1=C(C(=O)O)C=C(C(=C1Br)C(=O)OC)Br | C9H7Br2NO4
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 0.9 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4,6-dibromo-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 0.96 g | BrC1=C(C(=CC=2NC(NC21)=O)Br)C(=O)OC | C9H6Br2N2O3
